US06310095B1
To a 0-5° C. mechanically-stirred solution in diethyl ether (100 mL) of succinaldehydic acid ethyl ester (10.0 g, 77 mmol) was added bromine (3.9 g, 151 mmol) over 2.5 hours. The reaction mixture was stirred for an additional 1.25 hours and the ether was distilled at atmospheric pressure. The remaining yellow oil was distilled (6.0-6.5 mm Hg, bp 95-101° C.) to give 3-bromosuccinaldehydic acid ethyl ester (10.7 g, 66%).

reactant | succinaldehydic acid ethyl ester | 77 mmol, 10.0 g | C(C)OC(CCC=O)=O | C6H10O3
reactant | bromine | 151 mmol, 3.9 g | BrBr | Br2
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 3-bromosuccinaldehydic acid ethyl ester | 10.7 g, 66% | C(C)OC(CC(C=O)Br)=O | C6H9BrO3
